* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=1.45194806916e-10
.param C2=2.85856206391e-10
.param Ce=1.93260427437e-12
.param Ch=4.1357081891e-11
.param Csh=1.77289422638e-10
.param L1=3.17151890637e-08
.param Lh=2.49066320614e-08
.param Lp=1.00234080217e-08
.param Rp=7.81580211115
.param Vsrc_amp=513.225727444
.param ne=1.03357356422e+15
.param nu_m=113255930.897

* Sources
Vsrc src 0 SIN(0 513.225727444 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 7.81580211115
Lbulk nb ns 1.00234080217e-08
Csh ns n 1.77289422638e-10
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
